US08802688B2
Step 1. 5-bromo-N-ethyl-1H-indazole-3-carboxamide
To a solution of 5-bromo-1H-indazole-3-carboxylic acid (1.2 g, 5.0 mmol) in dichloromethane (20 mL) was added oxalyl chloride (1.26 g, 10 mmol) and 1 drop of N,N-dimethylformamide. The mixture was stirred at room temperature under a nitrogen atmosphere overnight. The reaction was concentrated and the residue was dissolved in dichloromethane (20 mL). Ethylamine (1.1 g, 25 mmol) was added dropwise. The reaction was allowed to stir at room temperature for 4 hours. The reaction mixture was concentrated to provide the title compound (1.27 g). +ESI (M+H+1) 270.9.

reactant | 5-bromo-1H-indazole-3-carboxylic acid | 5.0 mmol, 1.2 g | BrC=1C=C2C(=NNC2=CC1)C(=O)O | C8H5BrN2O2
reactant | oxalyl chloride | 10 mmol, 1.26 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Ethylamine | 25 mmol, 1.1 g | C(C)N | C2H7N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 5-bromo-N-ethyl-1H-indazole-3-carboxamide | 1.27 g | BrC=1C=C2C(=NNC2=CC1)C(=O)NCC | C10H10BrN3O
